US07968552B2
In an atmosphere of nitrogen, a mixture of methyl 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate, 4-bromo-3,5-dimethylphenol, palladium acetate, dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine, tripotassium phosphate, toluene and water was stirred for 14.5 hours with heating at 60° C. to obtain methyl 4′-hydroxy-2,2′,6′-trimethylbiphenyl-3-carboxylate.

reactant | methyl 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | CC1=C(C(=O)OC)C=CC=C1B1OC(C(O1)(C)C)(C)C | C15H21BO4
reactant | 4-bromo-3,5-dimethylphenol | BrC1=C(C=C(C=C1C)O)C | C8H9BrO
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | tripotassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | methyl 4′-hydroxy-2,2′,6′-trimethylbiphenyl-3-carboxylate | OC1=CC(=C(C(=C1)C)C1=C(C(=CC=C1)C(=O)OC)C)C | C17H18O3
